US05087631
(A) 2-Trimethylsilylethyl 4-methoxymandelate (Formula (III), R1 =4-methoxyphenyl, R2 =CH2CH2SiMe3)
To a solution of 4-methoxymandelic acid (2.00 g, 10.978 mmol) in 55 mL of dioxane at 90° C. is added 2-trimethylsilylethyl-N,N-diisopropyl-pseudourea. The resulting solution is refluxed for about 8 hours. After cooling the mixture is diluted with 50 mL of ethyl acetate, filtered, washed with saturated aqueous sodium bicarbonate followed by brine, dried over magnesium sulfate, and concentrated. The resulting residue is chromatographed on silica gel (9/1 hexanes/ethyl acetate) to give the title compound as an oil: 2.24 g, 72% yield. 1H NMR (300 MHz, CDCl3): 7.32 (d, J=8.8, 2 H), 6.89 (d, J=8.8, 2 H), 5.08 (d, J=5.6, 1 H), 4.38-4.17 (m, 2 H), 3.81 (s, 3 H), 3.41 (d, J=5.6, 1 H), 0.96 (m, 2 H), 0.01 (s, 9 H).

reactant | 4-methoxymandelic acid | 10.978 mmol, 2.00 g | COC1=CC=C(C(C(=O)O)O)C=C1 | C9H10O4
reactant | 2-trimethylsilylethyl-N,N-diisopropyl-pseudourea | C[Si](CCN=C(N(C(C)C)C(C)C)O)(C)C | C12H28N2OSi
solvent | dioxane | 55 mL | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
product | 2-Trimethylsilylethyl 4-methoxymandelate | 72% yield | COC1=CC=C(C(C(=O)OCC[Si](C)(C)C)O)C=C1 | C14H22O4Si
